US04895871
A mixture of 1.6 grams (0.004 mole) of (4-trifluoromethylsulfonyloxyphenyl)(2,3-dihydro-2,2-dimethylbenzofuran-5-yl) ketone in 75 mL of ethanol was stirred, and 0.6 mL (0.0121 mole) of hydrazine hydrate followed by 0.5 mL of acetic acid were both added via syringe. Upon completion of addition the reaction mixture was heated at reflux for 7 hours and then was allowed to cool to ambient temperature where it was stirred for 18 hours. The reaction mixture was concentrated under reduced pressure, and the residue was stirred with diethyl ether and water. The mixture was placed in a separatory funnel, and the layers were separated. The organic layer was washed with aqueous 10% sodium hydroxide solution, two portions of water, and with a saturated, aqueous solution of sodium chloride. The organic layer was concentrated under reduced pressure to yield 1.6 grams of (4-trifluoromethylsulfonyloxyphenyl)(2,3-dihydro-2,2-dimethylbenzofuran-5-yl) ketone hydrazone as an oil. The nmr spectrum was consistent with the proposed structure.

reactant | (4-trifluoromethylsulfonyloxyphenyl)(2,3-dihydro-2,2-dimethylbenzofuran-5-yl) ketone | 0.004 mole, 1.6 grams | FC(S(=O)(=O)OC1=CC=C(C=C1)C(=O)C=1C=CC2=C(CC(O2)(C)C)C1)(F)F | C18H15F3O5S
reactant | hydrazine hydrate | 0.0121 mole, 0.6 mL | O.NN
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | (4-trifluoromethylsulfonyloxyphenyl)(2,3-dihydro-2,2-dimethylbenzofuran-5-yl) ketone hydrazone | 1.6 grams | FC(S(=O)(=O)OC1=CC=C(C=C1)C(C=1C=CC2=C(CC(O2)(C)C)C1)=NN)(F)F | C18H17F3N2O4S
